US06207665B1
To a solution of (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine (1.6 g, 6.7 mmol) in CH2Cl2 (30 mL) was added triethylamine (excess) and 4-chlorophenoxyacetyl chloride (1.5 g, 7.4 mmol, dropwise in 10 mL solution of CH2Cl2). The resultant mixture was stirred at ambient temperature. After 20 minutes, analysis by analytical TLC showed complete consumption of starting material had occurred. The mixture was concentrated of volatiles in vacuo and the residue taken up in CH2Cl2. This was washed with saturated aqueous NaHCO3 solution, then water, then brine, dried over MgSO4, filtered, and concentrated in vacuo. Purification by flash column chromatography on silica gel afforded 2.16 g (79% yield) of (2R,5R)-1-((4-chlorophenoxy)methyl)carbonyl-2-methyl-4-(4-fluorobenzyl)-5-((hydroxy)methyl)piperazine, as a solid yellow foam: NMR (DMSO-d6) 7.7 (br s, 2), 7.3 (m, 4), 6.9 (d, 2), 5.0-4.2 (m, 5), 4.0-3.2 (m, 7), 1.2 (m, 3) ppm; MS (LSIMS) 406.

reactant | (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine | 6.7 mmol, 1.6 g | FC1=CC=C(CN2[C@H](CN[C@H](C2)C)CO)C=C1 | C13H19FN2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenoxyacetyl chloride | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,5R)-1-((4-chlorophenoxy)methyl)carbonyl-2-methyl-4-(4-fluorobenzyl)-5-((hydroxy)methyl)piperazine | 2.16 g, 79% yield | ClC1=CC=C(OCC(=O)N2[C@@H](CN([C@H](C2)CO)CC2=CC=C(C=C2)F)C)C=C1 | C21H24ClFN2O3
